US07452886B2
To a solution of 100 mg (0.30 mmoles) of 7-(2,2-dimethyl-propyl)-6-(4-oxo-piperidin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile and 0.047 ml (0.75 mmoles) of pyridine in 5 ml of CH2Cl2, 52 mg (0.75 mmoles) of hydroxyl amine is added at ambient temperature. After being stirred for 24 hours, the reaction mixture is quenched with H2O and extracted with CH2Cl2. The combined extracts are washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give 100 mg of desired 7-(2,2-dimethyl-propyl)-6-(4-hydroxyimino-piperidin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 98% yield.

reactant | 7-(2,2-dimethyl-propyl)-6-(4-oxo-piperidin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.30 mmoles, 100 mg | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2CCC(CC2)=O)(C)C | C18H23N5O
reactant | pyridine | 0.75 mmoles, 0.047 ml | N1=CC=CC=C1 | C5H5N
reactant | hydroxyl amine | 0.75 mmoles, 52 mg | ON | H3NO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 7-(2,2-dimethyl-propyl)-6-(4-hydroxyimino-piperidin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 100 mg, 98% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2CCC(CC2)=NO)(C)C | C18H24N6O
